US07723330B2
Step B: Preparation of N-(4-(3-(1H-pyrazol-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A 50 mL round-bottomed flask was charged with tert-butyl 4-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido) phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)-1H-pyrazole-1-carboxylate (29.7 mg, 0.0398 mmol) and CF3COOH (5 mL). The reaction mixture was stirred at 60° C. for 4 hours. Then the solvent was removed and the residue was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to give product (17.8 mg, 85.0%). LRMS (APCI pos): >99% purity, 254 nm, m/e 527 (M+1). 1H NMR (400 MHz, DMSO-d6) δ 13.65 (s, 1H), 13.0 (s, 1H), 11.74 (s, 1H), 8.38 (d, 1H), 8.32 (d, 1H), 8.27 (d, 1H), 8.22 (s, 1H), 8.01-8.12 (m, 2H), 7.69 (m, 2H), 7.61 (m, 2H), 7.42 (m, 2H), 6.32 (d, 1H).

reactant | tert-butyl 4-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido) phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)-1H-pyrazole-1-carboxylate | 0.0398 mmol, 29.7 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C3=CC=NN(C3=O)C3=CC=C(C=C3)F)F)C=3C=NN(C3)C(=O)OC(C)(C)C)C=C1 | C39H32F2N8O6
reactant | CF3COOH | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(4-(3-(1H-pyrazol-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 17.8 mg, 85.0% | N1N=CC(=C1)C1=NNC2=NC=CC(=C21)OC2=C(C=C(C=C2)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O)F | C26H16F2N8O3
